US04996215
4-(4-Methylsulfonylaminobenzoyl)-1-[2-(3-pyridyl)ethyl]piperidine dihydrochloride
35 g (0.101 mol) of 4-(4-methylsulfonylaminobenzoyl)piperidine hydrochloride and 55 g of potassium carbonate were suspended in 700 ml of dimethylformamide and the suspension was stirred at 40° C. for 20 min. 19.6 g (0.101 mol) of 3-(2-chloroethyl)pyridine hydrochloride and 6.0 g (0.036 mol) of potassium iodide were added to the suspension and the mixture was stirred at 90° C. for 3.5 h. The liquid reaction mixture was filtered and the filtrate was concentrated, while the residue was purified according to silica gel chromatography (chloroform:methanol=93:7). The purified product was converted into its hydrochloride with ethanolic hydrogen chloride and recrystallized from methanol/isopropanol to obtain 13.4 g of the intended compound.

reactant | 4-(4-methylsulfonylaminobenzoyl)piperidine hydrochloride | 0.101 mol, 35 g | Cl.CS(=O)(=O)NC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | potassium carbonate | 55 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(2-chloroethyl)pyridine hydrochloride | 0.101 mol, 19.6 g | Cl.ClCCC=1C=NC=CC1
reactant | potassium iodide | 0.036 mol, 6.0 g | [I-].[K+]
solvent | dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
product | 4-(4-Methylsulfonylaminobenzoyl)-1-[2-(3-pyridyl)ethyl]piperidine dihydrochloride | 13.4 g | Cl.Cl.CS(=O)(=O)NC1=CC=C(C(=O)C2CCN(CC2)CCC=2C=NC=CC2)C=C1 | InChI=1S/C20H25N3O3S.2ClH/c1-27(25,26)22-19-6-4-17(5-7-19)20(24)18-9-13-23(14-10-18)12-8-16-3-2-11-21-15-16;;/h2-7,11,15,18,22H,8-10,12-14H2,1H3;2*1H
